US08980905B2
Methyl 7-Difluoromethoxy-2′,3′,5′,6′-tetrahydro-spiro[1,3-benzodioxole-2,4′-(4H)-thiopyran]-4-carboxylate(437 mg) was dissolved in a mixture of Methanol(5 mL) and THF(5 mL) and 1M aqueous Lithium hydroxide(3.9 mL) was added. The ester was cleaved after 1 hour at 50° C. The solution was cooled to room temperature and acidified with 2N sulfuric acid (1.95 mL) and the product was extracted into EtOAc. 7-Difluoromethoxy-2′,3′,5′,6′-tetrahydro-spiro[1,3-benzodioxole-2,4′-(4H)-thiopyran]-4-carboxylic acid was obtained after removal of solvents under reduced pressure.

reactant | Methyl 7-Difluoromethoxy-2′,3′,5′,6′-tetrahydro-spiro[1,3-benzodioxole-2,4′-(4H)-thiopyran]-4-carboxylate | 437 mg | FC(OC1=CC=C(C2=C1OC1(CCSCC1)O2)C(=O)OC)F | C14H14F2O5S
reactant | sulfuric acid | 2N, 1.95 mL | S(O)(O)(=O)=O | H2O4S
solvent | Methanol | 5 mL | CO | CH4O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | Lithium hydroxide | 1M, 3.9 mL | [OH-].[Li+]
product | 7-Difluoromethoxy-2′,3′,5′,6′-tetrahydro-spiro[1,3-benzodioxole-2,4′-(4H)-thiopyran]-4-carboxylic acid | FC(OC1=CC=C(C2=C1OC1(CCSCC1)O2)C(=O)O)F | C13H12F2O5S
